US06809225B2
To a suspension of 7.58 g (21.2 mmole) methyltriphenylphosphoniumbromide in 15 ml abs. THF at room temperature within 10 minutes 17.0 ml (21.2) n-butyllithium (1.25M in n-hexane)are added dropwise. The reddish solution obtained is cooled to −78° C. and then within 15 minutes a solution of 3.70 g (16.3 mmole) 2-methoxy-5-methyl-benzophenone in 5 ml abs. THF is added. Agitation is performed initially for 20 minutes at −78° C. and for a further 8 h at room temperature. Then 80 ml water are added to the reaction mixture and extracted twice with 50 ml diethylether in each case. The purified organic phases are then dried through magnesium sulphate and the solvent is removed. Purification of the raw product obtained takes place by column chromatography on silica gel with toluene as the solvent. 3.03 g (13.5 mmole, 83%) 1-methoxy-4-methyl-2-(1-phenyl-vinyl)-benzene are obtained.

reactant | THF | C1CCOC1 | C4H8O
reactant | n-butyllithium | 1.25M, 17.0 ml | C(CCC)[Li]
reactant | 2-methoxy-5-methyl-benzophenone | 16.3 mmole, 3.70 g | COC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C15H14O2
reactant | water | 80 ml | O | H2O
catalyst | methyltriphenylphosphoniumbromide | 21.2 mmole, 7.58 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-methoxy-4-methyl-2-(1-phenyl-vinyl)-benzene | 13.5 mmole, 3.03 g, 83% | COC1=C(C=C(C=C1)C)C(=C)C1=CC=CC=C1 | C16H16O
